US04448776
255.1 g of benzophenone, 298 ml of 1,2-diaminopropane and 0.2 g of p-toluenesulphonic acid are mixed and heated for 30 minutes under reflux. Approximately 250 ml are then distilled off, the remainder is allowed to cool to approximately 80° C. and approximately 350 ml of 2-ethoxyethanol (ethylene glycol monoethyl ether) are added, followed, while stirring, by 70 ml of water and the whole is allowed to crystallise in an ice bath. N,N'-bis-(diphenylmethylene)-1,2-propylenediamine is obtained which can be purified by recrystallisation from ethanol (approximately 180 ml) and should be dried thoroughly before further reaction.

reactant | benzophenone | 255.1 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | 1,2-diaminopropane | 298 ml | NCC(C)N | C3H10N2
reactant | p-toluenesulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N,N'-bis-(diphenylmethylene)-1,2-propylenediamine | C1(=CC=CC=C1)C(=NCC(C)N=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H26N2
